US06103131
Synthesis of Dodecyl Sulfamic Acid
Dodecyl amine (0.1 mol) is added to a round bottom flask equipped with magnetic stirrer and dissolved in anhydrous pyridine. Next, chlorosulfonic acid (0.1 mol) is added dropwise with stirring to the chilled solution. The resulting product, dodecyl sulfamic acid, is then collected by filtration, washed with water and dried in an oven.

reactant | Dodecyl amine | 0.1 mol | C(CCCCCCCCCCC)N | C12H27N
reactant | chlorosulfonic acid | 0.1 mol | ClS(=O)(=O)O | ClHO3S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | Dodecyl Sulfamic Acid | C(CCCCCCCCCCC)NS(O)(=O)=O | C12H27NO3S
